datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([S:4][H:12])[H:8])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([S:4][C:13]([H:14])([H:15])[H:16])[H:8])[H:7])([H:5])[H:6].[H:12],66.944
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:12][C:11]([H:13])([H:14])[H:15],36.0818
[C:0]1([H:7])[C:1]([H:8])([H:9])[C:2]2([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]12[H:15]>>[C:0]1([H:7])=[C:6]([H:15])[C:5]([H:14])=[C:4]([H:13])[C:3]([H:11])([H:12])[C:2]([H:10])[C:1]1([H:8])[H:9],89.1192
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:22])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]([C:9]([H:18])([H:19])[H:20])[H:21])([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:22])[H:4],48.0323
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[S:18])[H:25])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:19])([H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[S:18])[H:25],82.8432
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[O:17][O:18][H:19]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11].[H:9][O:17][O:18][H:19],61.44204
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][O:9],116.943
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][O:15][C:16](=[O:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:14][O:15][C:16](=[O:17])[H:18],66.98584
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32])([H:10])([H:11])[H:12],6.81992
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](#[C:15][C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:16]([C:15]#[C:14][H:17])([H:18])[H:19])[H:6],31.2963
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:26])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])[H:27])([H:23])([H:24])[H:25],74.0568
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[O:28][O:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10].[H:11][O:28][O:29],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:14])[H:7])([H:5])[H:6],0.518816
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26]([C:27]([C:28]([H:34])([H:35])[H:36])[C:29](=[C:30]([H:38])[H:39])[H:37])[H:33])([H:31])[H:32]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:27]([C:26](=[C:25]([H:31])[H:32])[H:33])([C:28]([H:34])([H:35])[H:36])[C:29](=[C:30]([H:38])[H:39])[H:37],105.855
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])[H:7],10.0416
